US06251917B1
a) (S)-3-Benzoyl-N-(3-phenylpropan-1-ol-2-yl)benzamide
2 g (8.8 mmol) of 3-benzoylbenzoic acid were reacted with (S)-2-amino-3-phenyl-1-propanol by the method of procedure 3c. 2.5 g (79%) of the product were obtained.

reactant | 3-benzoylbenzoic acid | 8.8 mmol, 2 g | C(C1=CC=CC=C1)(=O)C=1C=C(C(=O)O)C=CC1 | C14H10O3
reactant | (S)-2-amino-3-phenyl-1-propanol | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
product | (S)-3-Benzoyl-N-(3-phenylpropan-1-ol-2-yl)benzamide | 2.5 g, 79% | C(C1=CC=CC=C1)(=O)C=1C=C(C(=O)N[C@H](CO)CC2=CC=CC=C2)C=CC1 | C23H21NO3
